US06495576B2
N-(1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethylpropyl)-4-methylbenzamide
A suspension of p-toluamide (4.11 g, 30.4 mmol), pivaldehyde (2.62 g, 30.4 mmol), and benzotriazole (3.62 g, 30.4 mmol) in toluene (200 mL) was treated with p-toluenesulfonic acid (286 mg, 1.52 mmol). The solution was heated at reflux under Dean-Stark conditions for 10 hours, cooled gradually to ambient temperature, and further cooled to 5° C. The white precipitate which formed was collected by filtration and was washed with 50% diethyl ether/hexanes (100 mL) to provide 6.67 g of the title compound as a white solid.

reactant | p-toluamide | 30.4 mmol, 4.11 g | C1(=CC=C(C=C1)C(=O)N)C | C8H9NO
reactant | pivaldehyde | 30.4 mmol, 2.62 g | CC(C)(C)C=O | C5H10O
reactant | benzotriazole | 30.4 mmol, 3.62 g | N1N=NC2=C1C=CC=C2 | C6H5N3
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 1.52 mmol, 286 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-(1-(1H-1,2,3-Benzotriazol-1-yl)-2,2-dimethylpropyl)-4-methylbenzamide | 6.67 g | N1(N=NC2=C1C=CC=C2)C(C(C)(C)C)NC(C2=CC=C(C=C2)C)=O | C19H22N4O
